US07723368B2
Step 2) 2-amino-5-{3-[(butylamino)methyl]phenyl}-5-[4-(difluoro-methoxy)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one
A small vial (10 ml) was charged with 3-[2-Amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-benzaldehyde (90 mg, 250 μmol) and methanol (2 ml). To this was added butylamine (20 mg, 273 μmol). After stirring overnight at room temperature sodium borohydride (24 mg) was added, then after another 4 hours 1N sodium hydroxide (1 ml) was added and the mixture extracted with diethyl ether. The ethereal layer was concentrated by rotary evaporation, diluted with methanol and re-concentrated (repeated three times). Finally the oily residue was redissolved in diethylether/hexanes and concentrated, twice then placed under vacuum to give a white foam 78 mg (75%). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.76-0.83 (m, 3H) 1.21 (quin, J=7.9 Hz, 2H) 1.31 (quin, J=6.3 Hz, 2H) 2.38 (t, J=7.0 Hz, 2H) 2.93 (s, 3H) 3.56 (s, 2H) 6.61 (br. s., 4H) 6.67 (br. s., 1H) 7.04 (d, J=8.8 Hz, 2H) 7.12 (t, J=74.18 Hz, 1H) 7.13-7.27 (m, 3H) 7.37 (s, 1H) 7.42 (d, J=8.8 Hz, 2H); MS (APPI) m/z 417 [M+H]+

reactant | 3-[2-Amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-benzaldehyde | 250 μmol, 90 mg | NC=1N(C(C(N1)(C1=CC=C(C=C1)OC(F)F)C=1C=C(C=O)C=CC1)=O)C | C18H15F2N3O3
reactant | butylamine | 273 μmol, 20 mg | C(CCC)N | C4H11N
reactant | sodium borohydride | 24 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 2-amino-5-{3-[(butylamino)methyl]phenyl}-5-[4-(difluoro-methoxy)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 78 mg, 75% | NC1=NC(C(N1C)=O)(C1=CC=C(C=C1)OC(F)F)C1=CC(=CC=C1)CNCCCC | C22H26F2N4O2
